### PR TITLE
feat(FieldTheory/Galois): lemmas of infinite galois

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Add lemmas about Galois extensions, especially the special case of the Galois correspondence.
Co-authored-by:  Yongle Hu <huyongle@stu.pku.edu.cn> Nailin Guan <3571819596@qq.com> Jingting Wang <wangjingting2023@stu.pku.edu.cn>

---

- Mathlib.FieldTheory.Galois -> Mathlib.FieldTheory.Galois.Baic*
- [x] depends on: #16816

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Galois/FiniteDimensional.lean [hunk 1]
```diff
@@ -278,6 +278,111 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+/-In this section we prove that the normal subgroups correspond to the Galois subextensions
+in the Galois correspondence and its related results.-/
+
+variable {K L : Type*} [Field K] [Field L] [Algebra K L]
+
+open IntermediateField
+
+namespace Normal
+
+private lemma of_intermediateField_mem_invariant_under_embedding [Normal K L]
```
Comment (mbkybky) [inline Mathlib/FieldTheory/Galois/FiniteDimensional.lean:292]: This lemma can be removed because `of_fixedField_normal_subgroup` can be directly proved using `normal_iff_forall_map_le'`.

File: Mathlib/FieldTheory/Galois/FiniteDimensional.lean [hunk 2]
```diff
@@ -278,6 +278,111 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+
+/-- If `H` is a normal Subgroup of `Gal(L / K)`, then `fixedField H` is Galois over `K`. -/
+instance of_fixedField_normal_subgroup [IsGalois K L]
+    (H : Subgroup (L ≃ₐ[K] L)) [hn : Subgroup.Normal H] : IsGalois K (fixedField H) where
+  to_isSeparable := Algebra.isSeparable_tower_bot_of_isSeparable K (fixedField H) L
+  to_normal := by
+    apply Normal.of_intermediateField_mem_invariant_under_embedding (fixedField H)
+    intro σ x τ
+    calc _ = (σ * σ⁻¹ * τ.1 * σ) x.1 := by rw [mul_inv_cancel]; rfl
+      _ = _ := by nth_rw 2 [← x.2 ⟨_ , (Subgroup.Normal.conj_mem hn τ.1 τ.2 σ⁻¹)⟩]; rfl
```
Comment (mbkybky) [inline Mathlib/FieldTheory/Galois/FiniteDimensional.lean:326]:
```suggestion
    apply normal_iff_forall_map_le'.mpr
    intro σ x ⟨a, ha, hax⟩ τ
    rw [← hax]
    calc _ = (σ * σ⁻¹ * τ.1 * σ) a := by rw [mul_inv_cancel]; rfl
      _ = _ := by nth_rw 2 [← ha ⟨_ , (Subgroup.Normal.conj_mem hn τ.1 τ.2 σ⁻¹)⟩]; rfl
```

File: Mathlib/FieldTheory/Galois/FiniteDimensional.lean [hunk 3]
```diff
@@ -278,6 +278,111 @@ def galoisCoinsertionIntermediateFieldSubgroup [FiniteDimensional F E] [IsGalois
...
+  have : h ∈ (IntermediateField.map σ.toAlgHom E : Set L) := hy
+  rcases this with ⟨x,hx⟩
+  rw [← hx.2]
+  convert h₀ σ ⟨x,hx.1⟩
+
+end Normal
+
+open scoped Pointwise
+
+private theorem Subgroup.Normal.of_conjugate_fixed {G : Type*} [Group G] {H : Subgroup G}
```
Comment (mbkybky) [inline Mathlib/FieldTheory/Galois/FiniteDimensional.lean:305]: This lemma should be moved to the file related to `Subgroup`.
